US08008481B2
4-Methyl-5-nitro-pyridin-2-ylamine (Aldrich, 4.80 g, 31.4 mmol) was suspended in dimethoxymethyl-dimethylamine (50 mL) and the mixture was heated at about 120° C. in a sealed vessel with stirring for about 4 days. The reaction was cooled and concentrated to afford N′-[4-((E)-2-Dimethylamino-vinyl)-5-nitro-pyridin-2-yl]-N,N-dimethyl-formamidine (8.36 g, 101%) as a dark solid, RP HPLC (Table 1, Method e) Rt=1.62, m/z: (MH)+ 264. The crude product was then used in the next step without further purification.

reactant | 4-Methyl-5-nitro-pyridin-2-ylamine | 31.4 mmol, 4.80 g | CC1=CC(=NC=C1[N+](=O)[O-])N | C6H7N3O2
reactant | dimethoxymethyl-dimethylamine | 50 mL | COC(OC)N(C)C | C5H13NO2
product | N′-[4-((E)-2-Dimethylamino-vinyl)-5-nitro-pyridin-2-yl]-N,N-dimethyl-formamidine | 8.36 g, 101% | CN(/C=C/C1=CC(=NC=C1[N+](=O)[O-])N=CN(C)C)C | C12H17N5O2
